US06900216B2
A solution of 3-bromo-4-fluorobenzo[b]thiophene (0.76 g) in tetrahydrofuran (5 ml) was added dropwise under nitrogen at −60-−50° C. over 10 minutes to a stirred solution of n-butyllithium (2.5M solution in hexanes; 1.71 ml) in ether (40 ml), then the mixture was stirred at −50° C. for 30 minutes. A solution of 2-chloro-N-methoxy-N-methylacetamide (0.39 g) in tetrahydrofuran (10 ml) was added dropwise over 10 minutes, the mixture was stirred at −50° C. for 30 minutes and at 0° C. for 1 hour, then it was quenched by the addition of saturated aqueous ammonium chloride solution (30 ml). The organic layer was separated, washed with saturated aqueous sodium chloride solution (30 ml), dried (MgSO4) and the solvent was removed in vacuo. The residue was purified by flash chromatography over silica using a 10:1 mixture of petroleum ether (b.p. 60-80° C.) and ethyl acetate as eluant. Appropriate fractions were combined and the solvents removed in vacuo to give 2-chloro-1-(4-fluorobenzo[b]thiophen-2-yl]ethan-1-one (0.1 g) as a colourless solid which was used without further purification.

reactant | 3-bromo-4-fluorobenzo[b]thiophene | 0.76 g | BrC=1C2=C(SC1)C=CC=C2F | C8H4BrFS
reactant | n-butyllithium | 2.5M, 1.71 ml | C(CCC)[Li]
reactant | 2-chloro-N-methoxy-N-methylacetamide | 0.39 g | ClCC(=O)N(C)OC | C4H8ClNO2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-chloro-1-(4-fluorobenzo[b]thiophen-2-yl]ethan-1-one | 0.1 g | ClCC(=O)C1=CC2=C(S1)C=CC=C2F | C10H6ClFOS
